US05086062
A.4 5-Fluoro-6-nitrobenzoxazolin-2-one
To a stirred solution of 300 ml concentrated nitric acid, at room temperature, was added portionwise 73.2 g (0.48 mole) of 5-fluorobenzoxazolin-2-one. The reaction mixture was warmed to 50° C., and was stirred for 4 hours. After cooling, the reaction mixture was poured onto ice. The precipitate which formed was collected, washed with water, and dried to give 72.8 g of the title compound as a brown powder: m.p. 207°-209° C.

reactant | 5-fluorobenzoxazolin-2-one | 0.48 mole, 73.2 g | FC=1C=CC2=C(NC(O2)=O)C1 | C7H4FNO2
reactant | nitric acid | 300 ml | [N+](=O)(O)[O-] | HNO3
product | 5-Fluoro-6-nitrobenzoxazolin-2-one | 72.8 g | FC=1C(=CC2=C(NC(O2)=O)C1)[N+](=O)[O-] | C7H3FN2O4
